US07754747B2
Step 2: 2-({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)-3-phenylpropanoic acid.
A mixture of methyl 2-({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)-3-phenylpropanoate (346 mg, 0.633 mmol), prepared in the previous step, and 1 N NaOH (1.26 mL, 1.26 mmol) in 50 mL of THF was stirred at room temperature for 18 h (overnight). The reaction was acidified by the addition of 1.4 mL of 1N HCl and then concentrated under reduced pressure to remove the THF. The yellow solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (266 mg, 77%) as a yellow solid, mp 174-177° C. Elemental Analysis for C34H29NO5+0.039 H2O Calc'd: C, 76.72; H, 5.51; N, 2.63. Found: C, 75.36; H, 5.48; N, 2.44.

reactant | methyl 2-({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)-3-phenylpropanoate | 0.633 mmol, 346 mg | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OC(C(=O)OC)CC1=CC=CC=C1)C=CC=C2 | C35H31NO5
reactant | NaOH | 1.26 mmol, 1 N, 1.26 mL | [OH-].[Na+]
reactant | HCl | 1N, 1.4 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)-3-phenylpropanoic acid | 266 mg, 77% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OC(C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C34H29NO5
